US04406897
Isonicotinamidine Hydrochloride
An aqueous solution of NH4Cl (26.9 g) is added to a solution of ethyl isonicotinimidate (75.5 g) in ethanol (325 ml). The reaction mixture is heated to reflux for four hours and stirred overnight. A white precipitate is filtered, washed with the mother liquor, dried at 90° C. under house vacuum for 8 hours, yielding 47 g of a white crystalline solid mp. 233°-237° C. The precipitate is dried overnight yielding 44.2 g of the desired hydrochloride, m.p. 237°-240° C.

reactant | NH4Cl | 26.9 g | [NH4+].[Cl-]
reactant | ethyl isonicotinimidate | 75.5 g | C(C1=CC=NC=C1)(OCC)=N | C8H10N2O
solvent | ethanol | 325 ml | C(C)O | C2H6O
product | Isonicotinamidine Hydrochloride | 47 g | Cl.C(C1=CC=NC=C1)(=N)N | InChI=1S/C6H7N3.ClH/c7-6(8)5-1-3-9-4-2-5;/h1-4H,(H3,7,8);1H
